US09376422B2
tert-Butyl 4-{[5-chloro-3-(methoxycarbonyl)-2-methylphenyl]amino}piperidine-1-carboxylate
To a stirred solution of methyl 3-amino-5-chloro-2-methylbenzoate (1.40 g, 7.04 mmol) in CH2Cl2 (30 mL) and AcOH (2.50 g, 42.2 mmol) was added N-Boc piperidinone (1.96 g, 9.85 mmol) and sodium triacetoxyborohydride (4.40 g, 21.1 mmol). The reaction mixture was stirred at 23° C. for 18 hours and then saturated NaHCO3 was added and the mixture was separated. The aqueous layer was extracted with CH2Cl2 (3×20 mL) and the combined organic layers were concentrated in vacuo. The residue was purified by silica gel column chromatography (SiO2 heptane/ethylacetate=10/1 to 1/1) to give the titled compound as oil (2.40 g, 89% yield). 1H-NMR (400 MHz, CDCl3) δppm; 7.09 (s, 1H), 6.69 (s, 1H), 4.05 (m, 2H), 3.88 (s, 3H), 3.63 (m, 1H), 3.42 (m, 1H), 2.97 (m, 2H), 2.23 (s, 3H), 2.05 (m, 2H), 1.45 (s, 9H), 1.27 (m, 2H).

reactant | methyl 3-amino-5-chloro-2-methylbenzoate | 7.04 mmol, 1.40 g | NC=1C(=C(C(=O)OC)C=C(C1)Cl)C | C9H10ClNO2
reactant | AcOH | 42.2 mmol, 2.50 g | CC(=O)O | C2H4O2
reactant | N-Boc piperidinone | 9.85 mmol, 1.96 g | C(=O)(OC(C)(C)C)N1C(CCCC1)=O | C10H17NO3
reactant | sodium triacetoxyborohydride | 21.1 mmol, 4.40 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-{[5-chloro-3-(methoxycarbonyl)-2-methylphenyl]amino}piperidine-1-carboxylate | 2.40 g, 89% yield | ClC=1C=C(C(=C(C1)NC1CCN(CC1)C(=O)OC(C)(C)C)C)C(=O)OC | C19H27ClN2O4
